US07230133B2
N-(5-tert-Butyl-[1,3,4]thiadiazol-2-yl)-N′-{(1S,2S)-1-[(2,4-dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-malonamide
A solution of {(25, 3S)-2-[2-(5-tert-butyl-[1,3,4]thiadiazol-2-ylcarbamoyl)-acetylamino]-3-hydroxy-hex-4-ynyl}-carbamic acid benzyl ester (90 mg, 0.19 mmol) in MeOH (4 mL) was charged with 5% Pd/C, Degussa style (18 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (3 mL). The resultant solution was charged sequentially with 2,4-dimethylbenzaldehyde (0.02 mL, 0.14 mmol) and sodium cyanoborohydride (11 mg, 0.18 mmol), stirred for 12 h at RT, quenched with sat. NaHCO3, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification of the residue by reverse-phase HPLC provided the title compound as a white powder after lyopholization. MS found: (M+H)+=476.5.

reactant | {(25, 3S)-2-[2-(5-tert-butyl-[1,3,4]thiadiazol-2-ylcarbamoyl)-acetylamino]-3-hydroxy-hex-4-ynyl}-carbamic acid benzyl ester | 0.19 mmol, 90 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)NC(CC(NC=1SC(=NN1)C(C)(C)C)=O)=O)=O | C23H29N5O5S
reactant | 2,4-dimethylbenzaldehyde | 0.14 mmol, 0.02 mL | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | sodium cyanoborohydride | 0.18 mmol, 11 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(5-tert-Butyl-[1,3,4]thiadiazol-2-yl)-N′-{(1S,2S)-1-[(2,4-dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-malonamide | C(C)(C)(C)C1=NN=C(S1)NC(CC(=O)N[C@H]([C@H](CCC)O)CNCC1=C(C=C(C=C1)C)C)=O | C24H37N5O3S
